US06002008
4-[(3-Bromophenyl)amino]-6,7-dimethoxy-3-quinolinecarboxamide
A mixture of 4.03 g of 4-[(3-bromophenyl)amino]-6,7-dimethoxy-3-quinolinecarboxylic acid, 3.24 g of carbonyldiimiazole, and 100 ml of dimethylformamide was heated at 55 for 30 m, cooled to 0° C., and saturated with ammonia gas. After warming to 25 the resulting solution was stirred for 45 m, heated at 50, and evaporated to remove dimethylformamide. The residue was stirred with water, and the resulting solid was filtered, washed with water, and dried. Recrystallization from acetone gave a grey solid, mp 239-242° C.

reactant | 4-[(3-bromophenyl)amino]-6,7-dimethoxy-3-quinolinecarboxylic acid | 4.03 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)O | C18H15BrN2O4
reactant | ammonia | N | H3N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-[(3-Bromophenyl)amino]-6,7-dimethoxy-3-quinolinecarboxamide | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C18H16BrN3O3
